US05977146
e) Methyl N-methoxy-N-[2-(2-methoxyimino-1-methylpropylideneaminooxy)pyridin-3-yl]carbamate
At 70° C., a mixture of 1.2 g (9.2 mmol) of 2-methoxyimino-3-hydroxyiminobutane and 25 ml of tert-butanol was treated with 1.03 g (9.2 mmol) of potassium tert-butylate, and the mixture was stirred for 1 hour. The reaction mixture was freed from solvent under reduced pressure at approximately 40° C. The residue was introduced into 15 ml of dimethyl sulfoxide, and 2 g (9.2 mmol) of methyl N-methoxy-N-(2-chloropyridin-3-yl)carbamate, dissolved in 3 ml of dimethyl sulfoxide, were added at 50° C. The mixture was stirred for 2 hours at 100° C., and the reaction mixture was transferred to approximately 150 g of ice and extracted with tert-butyl methyl ether. The organic phases were combined, washed with water, dried, and the solvent was removed, under reduced pressure. The resulting residue was purified by column chromatography over silica gel using cyclohexane/ethyl acetate (2:1). This gave 470 mg (17%) of the title compound as a brown solid.

reactant | 2-methoxyimino-3-hydroxyiminobutane | 9.2 mmol, 1.2 g | CON=C(C)C(C)=NO | C5H10N2O2
reactant | tert-butanol | 25 ml | C(C)(C)(C)O | C4H10O
reactant | potassium tert-butylate | 9.2 mmol, 1.03 g | CC(C)(C)[O-].[K+]
reactant | methyl N-methoxy-N-(2-chloropyridin-3-yl)carbamate | 9.2 mmol, 2 g | CON(C(OC)=O)C=1C(=NC=CC1)Cl | C8H9ClN2O3
solvent | dimethyl sulfoxide | 3 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 15 ml | CS(=O)C | C2H6OS
product | Methyl N-methoxy-N-[2-(2-methoxyimino-1-methylpropylideneaminooxy)pyridin-3-yl]carbamate | CON(C(OC)=O)C=1C(=NC=CC1)ON=C(C(C)=NOC)C | C13H18N4O5
